2115-02-10 06:40:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
 PHERESIS CATHETER - START [**2115-2-9**] 09:12 AM
   triple [**Last Name (un) 1427**]
   - was having adequate UOP from lasix so held off on HD
   - sats okay but patient persistently tachy to 140s, and tachypneic with
   e/o increased work of breathing. seemed to improve with relaxation. CXR
   looked much worse. CVP 14.
   - some improvement with ativan, switching face tent to nasal cannula,
   limiting stimuli leading to anxiety
   - gave 5 of metolazone and 120 lasix with good effect - achieved net
   neg 2.8L
   - started primaquine and clinda for PCP, [**Name10 (NameIs) **] induced sputum as patient
   wouldnt tolerate
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-2-9**] 09:24 AM
   Acyclovir - [**2115-2-9**] 01:08 PM
   Cefipime - [**2115-2-9**] 02:13 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-2-9**] 07:15 PM
   Morphine Sulfate - [**2115-2-10**] 03:15 AM
   Lorazepam (Ativan) - [**2115-2-10**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2115-2-10**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 119 (109 - 140) bpm
   BP: 126/97(103) {111/56(79) - 162/108(119)} mmHg
   RR: 19 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 10 (10 - 14)mmHg
   Total In:
                                                                    746 mL
                                                                    116 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    646 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  3,545 mL
                                                                    955 mL
   Urine:
                                                                  3,545 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,799 mL
                                                                   -839 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.46/27/63/23/-2
   PaO2 / FiO2: 63
   [image002.gif]
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic concerning for delerium Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   37 K/uL
   8.6 g/dL
   143 mg/dL
   3.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   46 mg/dL
   107 mEq/L
   145 mEq/L
   24.6 %
   0.2 K/uL
        [image004.jpg]
                             [**2115-2-9**]  11:49 AM
                             [**2115-2-9**]  07:01 PM
                             [**2115-2-9**]  07:18 PM
                             [**2115-2-9**]  07:32 PM
                             [**2115-2-10**]  02:50 AM
   WBC
   0.3
   0.2
   Hct
   24.7
   24.6
   Plt
   37
   37
   Cr
   3.5
   3.7
   TropT
   0.07
   0.08
   TCO2
   23
   19
   20
   Glucose
   165
   143
   Other labs:
   CK / CKMB / Troponin-T:62/4/0.08,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:5.0 %, Mono:10.0 %,
   Eos:0.0 %,
   Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:7.9 mg/dL
   Lactate 3.3 last night, from 2.4, from 5.2
   Imaging:
   CXR looking better
   Microbiology:
   No new culture growth
   Respiratory viral screen negative
   No growth in CSF
   Assessment and Plan
   55F with multiple myeloma, undergoing active treatment, currently
   neutropenic, now with persistent fevers of unknown source and new
   respiratory distress.
   # Hypoxia/dyspnea
   Presumed to be cardiogenic but also concern for ARDS; however, CXR
   improved with diuresis. Overnight, vitals improved with resp rates
   around 12, heart rate 110, O2 sats 97 (see chart). Upon awakening and
   with people in room, BP elevated with diastolics > 100, desats to 80s,
   HR up to 150.  Mental status/delirium/agitation have large impact on
   vitals. Suspect that agitation
 HTN
  pulmonary edema
   desats/tachypnea/more tachycardia
   -- continue diuresis (5mg metolazone and lasix 120)
   -- limit external stimuli that cause agitation
   -- treat delirium with zyprexa, agitation/tachypnea with morphine
   -- repeat ABG
   -- low suspicion for PCP, [**Name10 (NameIs) 543**] will continue primaquine/clinda pending
   sputum
   # Altered mental status
   Originally presented with AMS, but acutely worse this am. C/w delirium.
   Also with disorganized thought. Ativan had been helping with keep BPs
   and resp rates under control but may be worsening delirium.
   -- zyprexa for agitation
   -- morphine for tachypnea
   # Tachycardia/Tachypnea: Correlates with respiratory rate, decreases
   when sleeping, and decreases when relaxed. Sinus. Had V/Q that was low
   prob on [**2-8**], but PE still on differential, although resolution while
   sleeping is reassuring
   -- optimize environment/reduce stimuli
   -- diurese as planned
   -- consider beta-blocker but better to treat underlying problem
   # Acid/base: mixed disorder. Primary respiratory alkalosis and
   metabolic acidosis [**1-22**] RTA and lactate.
   -- monitor blood gases
   # Febrile neutropenia: Abx restarted on [**2-7**] for recurrent temps.
   Workup extensive and neg to date including cultures, pan scans. Husband
   adds that pt recently had dental work and needs a cavity filled. Has
   been afebrile >24h.
   -- Continue acyclovir, cefepime, voriconazole, vancomycin, primaquine
   and clinda
   -- [**Month (only) 8**] need dental/sinus imaging, given head CT several days ago not
   protocolled to look at this
   -- consider reducing abx as improves
   #  Multiple myeloma:
   -- continue treatment per oncologist.
   -- line placed for pheresis for protein removal.
   # Renal failure: much worse since admission, type 1 RTA likely due to
   MM.
   -- renal following
   -- has access for dialysis if necessary
   -- no IVF
 TACHYCARDIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 NEUTROPENIA
 HYPOXEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Glycemic Control:
   Nutrition: NPO
   Lines:
   Pheresis Catheter - [**2115-2-9**] 09:12 AM
   Prophylaxis:
   DVT: boots
   Communication:  Husband
   [**Name (NI) 156**] status: Full
   Disposition: ICU

2115-02-11 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started 5mg zyprexa for delerium
   - Gave another 5 of metolazone and 120 lasix
   - Ordered bl LENIs r/o dvt (not done overnight)
   - ABG: 7.51, 28, 74 (improved PaO2, but worsening resp alkalosis)
   - Patient sinus tachy, which correlated with agitations, O2
   requirement, and tachypnea. Tried to control tachycardia w/
   anti-anxiety medications with little improvement; gave iv lopressor x1
   - Unable to induce sputum
   - PO meds changed to IV meds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-2-9**] 09:24 AM
   Acyclovir - [**2115-2-10**] 09:05 AM
   Cefipime - [**2115-2-10**] 12:35 PM
   Voriconazole - [**2115-2-10**] 02:17 PM
   Clindamycin - [**2115-2-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-2-10**] 11:30 AM
   Metoprolol - [**2115-2-10**] 09:49 PM
   Lorazepam (Ativan) - [**2115-2-11**] 01:35 AM
   Morphine Sulfate - [**2115-2-11**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-11**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 125 (112 - 146) bpm
   BP: 114/86(92) {99/71(38) - 148/102(112)} mmHg
   RR: 12 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 6 (6 - 359)mmHg
   Total In:
                                                                    620 mL
                                                                    116 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    715 mL
   Urine:
                                                                  3,440 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,820 mL
                                                                   -599 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.51/28/74//0
   PaO2 / FiO2: 74
   Physical Examination
   GEN: Delerious, very short attention, dry mucous membranes
   CV: Tachycardic, no RMG
   PULM: Bibasilateral rhales, no WR
   ABD: Soft, NTND +BS
   EXT: No edema
   Labs / Radiology
   20 K/uL
   7.6 g/dL
   143 mg/dL
   3.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   46 mg/dL
   107 mEq/L
   145 mEq/L
   21.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2115-2-9**]  11:49 AM
                             [**2115-2-9**]  07:01 PM
                             [**2115-2-9**]  07:18 PM
                             [**2115-2-9**]  07:32 PM
                             [**2115-2-10**]  02:50 AM
                             [**2115-2-10**]  11:24 AM
                             [**2115-2-11**]  06:00 AM
   WBC
   0.3
   0.2
   0.1
   Hct
   24.7
   24.6
   21.7
   Plt
   37
   37
   20
   Cr
   3.5
   3.7
   TropT
   0.07
   0.08
   TCO2
   23
   19
   20
   23
   Glucose
   165
   143
   Other labs: CK / CKMB / Troponin-T:62/4/0.08, Differential-Neuts:80.0
   %, Band:0.0 %, Lymph:5.0 %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:2.0
   mmol/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:7.9 mg/dL
   Imaging: Diffuse bilateral pulmonary infiltrates consistent with edema
   persists. The
   heart and mediastinal structures are unchanged. A right internal
   jugular
   catheter remains in place.
   ANC: 115
   Assessment and Plan
 TACHYCARDIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 NEUTROPENIA
 HYPOXEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   55F with multiple myeloma, undergoing active treatment, currently
   neutropenic, now with persistent fevers of unknown source and new
   respiratory distress.
   1.       Pulmonary edema: improved radiographically and with decreased
   oxygen requirement. Plan further diuresis with lasix 120 mg IV and 5 mg
   metolazole
   2.       Sinus tachycardia: some component of anxiety as P decreases to
   100
s while sleeping, up to 150
s with multiple people in rm. On abx
   for presumed sepsis, lung scan low probability for PE. Avoid beta
   blockers due to concern of further aggravating decompensated heart
   failure
   3.       Delirium: Pt requiring frequent re-directing and attempting to
   get OOB. Recent eval has included [**2-8**] LP; [**2-6**] head CT, [**1-30**] head MRI.
   Suspect toxic metabolic/delirium  - will dc ativan and try zyprexa;
   minimize stimuli
   4.       Neutropenia: currently afebrile. Remains on broad spectrum abx
   with acyclovir, cefepime, voriconazole, vancomycin; including empiric
   PCP [**Name Initial (PRE) 1679**]
   # Hypoxia/dyspnea: Secondary to flash pulmonary edema in the setting of
   extensive hydration and systolic heart failure (EF estimated ~40% on
   most recent echo).  She is now s/p diuresis with some improvement on
   CXR and reduction in O2 requirement.  Presumed to be cardiogenic but
   also concern for ARDS; however, CXR improved with diuresis. Overnight,
   vitals improved with resp rates around 12, heart rate 110, O2 sats 97
   (see chart). Upon awakening and with people in room, BP elevated with
   diastolics > 100, desats to 80s, HR up to 150.  Mental
   status/delirium/agitation have large impact on vitals. Suspect that
   agitation
 HTN
  pulmonary edema
 desats/tachypnea/more tachycardia
   -- hold diuresis for goal of net even
   -- limit external stimuli which can cause agitation
   -- treat delirium with zyprexa, which seems to be helping,
   agitation/tachypnea with morphine
   -- low suspicion for PCP, [**Name10 (NameIs) 543**] will continue primaquine/clinda pending
   sputum
   -- Continue cefepime, vanc for nosocomial coverage, and
   voriconazole/acyclovir emperically
   # Altered mental status
   Ddx includes ICU delirium, infectious process, central CNS process.
   CSF has shown no growth thus far, and MRI of head w/o evidence of acute
   process to explain mentation. Patient has received ativan for
   anxiety/tachypnea, though this has likely worsened her delirium.
   -- pheresis for her underlying malignancy, contact
   -- zyprexa for agitation, which seems to help
   -- morphine for tachypnea
   # Tachycardia/Tachypnea: Likely related to in part dehydration. But
   also correlates with respiratory rate, decreases when sleeping, and
   decreases when relaxed. Sinus. [**Month (only) 8**] be related to intermittent hypoxia.
   Had V/Q that was low prob on [**2-8**], but PE still on differential,
   although resolution while sleeping is reassuring
   -- optimize environment/reduce stimuli
   -- hold diuresis
   -- Start esmolol gtt to titrate to HR<100 given likely strong
   sympathetic component of tachycardia
   -- Transfusion of 1 unit PRBCs for goal of >24
   -- Give lasix with blood
   # Pancytopenia
   -- Check hemolysis labs
   -- Check Smear
   --
   # Hypernatremia, free water defecit of 3L
   -- D5 SW
   -- PM Lytes
   # Acid/base: mixed disorder. Primary respiratory alkalosis and
   metabolic acidosis [**1-22**] RTA and lactate.
   -- monitor blood gases
   # Febrile neutropenia: Abx restarted on [**2-7**] for recurrent temps.
   Workup extensive and neg to date including cultures, pan scans. Husband
   adds that pt recently had dental work and needs a cavity filled. Has
   been afebrile >24h.
   -- Continue acyclovir, cefepime, voriconazole, vancomycin, primaquine
   and clinda
   -- [**Month (only) 8**] need dental/sinus imaging, given head CT several days ago not
   protocolled to look at this
   -- consider reducing abx as improves
   #  Multiple myeloma:
   -- continue treatment per oncologist.
   -- line placed for pheresis for protein removal.
   -- D/w BMT
   # Renal failure: much worse since admission, type 1 RTA likely due to
   MM.
   -- renal following
   -- has access for dialysis if necessary
   -- no IVF
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2115-2-9**] 09:12 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2115-02-12 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2115-2-11**] 11:00 AM
   LENI
   - BMT recs: check CSF PEP, IgG. D/C clinda, primaquine, dex.
   - PM lytes: K low. Repleted with IV K.
   - Given 1u PRBC.
   - PIV placed by IV team.
   - Hemolysis labs negative.
   - Renal recs: free H2O flushes D5W at 125cc/hr for hypernatremia and
   3.5L free H2O defecit. No urgent need for HD now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2115-2-10**] 02:17 PM
   Vancomycin - [**2115-2-11**] 08:00 AM
   Acyclovir - [**2115-2-11**] 09:14 AM
   Clindamycin - [**2115-2-11**] 12:15 PM
   Cefipime - [**2115-2-11**] 12:36 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-2-11**] 08:29 PM
   Metoprolol - [**2115-2-11**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-12**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 103 (99 - 132) bpm
   BP: 120/94(100) {86/61(67) - 137/94(101)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  2,753 mL
                                                                  1,421 mL
   PO:
   TF:
   IVF:
                                                                  2,403 mL
                                                                  1,421 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,575 mL
                                                                    370 mL
   Urine:
                                                                  2,575 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                  1,051 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.50/28/95.[**Numeric Identifier 253**]/22/0
   Physical Examination
   CV [**2-23**] SM
   Pulm  + crackles
   Abd soft NTND
   Labs / Radiology
   22 K/uL
   8.4 g/dL
   276 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.2 mEq/L
   73 mg/dL
   100 mEq/L
   139 mEq/L
   24.0 %
   0.2 K/uL
        [image002.jpg]
   N:64 Band:0 L:16 M:8 E:0 Bas:0 Atyps: 12 Nrbc: 8
   PT: 18.0
   PTT: 32.0
   INR: 1.6
   Ca: 6.4 Mg: 2.2 P: 7.3
                             [**2115-2-9**]  07:01 PM
                             [**2115-2-9**]  07:18 PM
                             [**2115-2-9**]  07:32 PM
                             [**2115-2-10**]  02:50 AM
                             [**2115-2-10**]  11:24 AM
                             [**2115-2-11**]  06:00 AM
                             [**2115-2-11**]  07:31 AM
                             [**2115-2-11**]  11:29 AM
                             [**2115-2-11**]  03:12 PM
                             [**2115-2-12**]  04:00 AM
   WBC
   0.3
   0.2
   0.1
   0.1
   0.2
   Hct
   24.7
   24.6
   21.7
   22.4
   24.0
   Plt
   37
   37
   20
   23
   22
   Cr
   3.5
   3.7
   3.9
   3.9
   3.7
   TropT
   0.07
   0.08
   TCO2
   19
   20
   23
   23
   Glucose
   165
   143
   164
   252
   276
   Other labs: PT / PTT / INR:18.0/32.0/1.6, CK / CKMB /
   Troponin-T:62/4/0.08, Alk Phos / T Bili:/0.8, Differential-Neuts:64.0
   %, Band:0.0 %, Lymph:16.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:2.2
   mmol/L, LDH:537 IU/L, Ca++:6.4 mg/dL, Mg++:2.2 mg/dL, PO4:7.3 mg/dL
   Imaging: LENIs:
   No deep venous thrombosis in either lower extremity.
   CXR:
   As compared to the previous radiograph, the signs suggesting
   centralized pulmonary edema have minimally increased. The size of the
   cardiac silhouette is stable. There is no evidence of pleural
   effusions.
   CT Chest:
   1. Simple cholelithiasis without acute cholecystitis.
   2. Unchanged bilateral breast silicone granulomata.
   3. Small bilateral pleural effusions.
   4. Nonspecific patchy tree-in-[**Male First Name (un) 2717**] appearance in the anterior portion of
   the upper lobe of the lungs, unchanged from ten days ago, could
   represent inflammatory or early infection.
   5. Multiple osteolytic lesions along the spine, left fifth rib, right
   scapular and pelvic and acetabulum, compatible with history of multiple
   myeloma.
   Echo:
   Suboptimal image quality. Left ventricular systolic function is
   difficult to assess given fast heart rate and poor acoustic windows but
   appears at least mildly depressed (LVEF~40%). Very small posterior
   pericardial effusion. Resting tachycardia.
   MRI head:
   1. Limited evaluation without administration of intravenous gadolinium.
   If the EGFR is greater than 60, a contrast enhanced MRI may be
   obtained.
   2. Stable microangiopathic ischemic white matter disease.
   3. Heterogeneous low signal intensity within the bone marrow with
   progression of infiltration in the C2 vertebral body, compatible with
   the patient's history of multiple myeloma. Recommend bone scan for
   further evaluation
   Microbiology: CSF: No growth
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 NEUTROPENIA
 HYPOXEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   55F with multiple myeloma, undergoing active treatment, currently
   neutropenic, now with persistent fevers of unknown source and new
   respiratory distress.
   # Hypoxia/dyspnea: Secondary to flash pulmonary edema in the setting of
   extensive hydration and possible systolic heart failure (EF estimated
   ~40% on most recent echo though this was a suboptimal study).  She has
   improved with diuresis, though O2 requirement/tachypnea worsens with
   agitation.
   -- Goal is for net even
   -- Continue to treat delirium (see below)
   -- Given low suspicion for PCP, [**Name10 (NameIs) **] [**Name Initial (NameIs) **]/c
d primaquine/clinda pending
   sputum
   -- Continue cefepime, vanc for nosocomial coverage, and
   voriconazole/acyclovir emperically
   # Altered mental status: Ddx includes ICU delirium, infectious process,
   central CNS process.  CSF cx negative.  MRI head w/ low signal
   intensity w/in bone marrow and progression of infiltration.
   -- Pheresis today
   -- Cont zyprexa for agitation
   # Tachycardia: S/p 1u pRBC, but overall [**Location 11675**] 3.5L.  Likely in
   part related to diuresis.  Also contributed by hypoxia, malignancy,
   agitation.  Had V/Q that was low prob on [**2-8**], and LENIs negative.
   -- Optimize environment/reduce stimuli
   -- Holding diuresis
   -- Cont metoprolol iv q6
   # Pancytopenia: Stable. Hemolysis labs negative
   -- Transfuse for hct < 24, plt <10, and if signs of bleed
   -- Cont neupogen
   # Hypernatremia: Resolved with correcting free water defecit.
   -- Hold D5W, and monitor Na
   # Acid/base: mixed disorder. Respiratory alkalosis and metabolic
   acidosis [**1-22**] RTA and lactate.  Monitor blood gas as needed.
   # Febrile neutropenia: Abx restarted on [**2-7**] for recurrent temps.
   Workup extensive and neg to date including cultures, pan scans. Has not
   been febrile in the ICU.
   -- Continue acyclovir, cefepime, voriconazole, vancomycin
   -- Primaquine and clinda have been d/c
   #  Multiple myeloma:
   -- continue treatment per oncologist.
   -- pheresis today.
   # Renal failure: much worse since admission, type 1 RTA likely due to
   MM also probably worsened by diuresis.
   -- appreciate renal recs
   -- has access for dialysis if necessary
   # Goals of care: Will need to have discussion with family, given
   patient
s extensive malignant disease and relapse
   ICU Care
   Nutrition: NPO,
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2115-2-9**] 09:12 AM
   20 Gauge - [**2115-2-11**] 11:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: FULL
   ------ Protected Section ------
   ICU Attending Note
   I saw and examined the patient with the [**Hospital **] medical team.  The
   assessment and plan was discussed and is detailed in Dr. [**Last Name (STitle) 11565**]
s note.
   I would emphasize the following. Mental status unchanged.  On exam
   opens eyes to voice, not responding meaningfully, moaning.  PERRL
   Tachy, regular  Lungs with dependent crackles, occasional wheeze  no
   edema.
   Labs as above LENIs negative
   Tolerating pheresis.  Discussed with renal service who also plans to
   dialyze her given that uremia may also be contributing to altered
   mental status.  Follow up  on MM CSF workup as above.
   Patient is critically ill
   Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2115-2-12**] 13:03 ------

2115-02-13 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - tolerated pheresis well
   - HD tomorrow
   - called out to BMT
   - pheresis said to disregard lytes until [**Doctor First Name 600**] am
   - NGT deferred for now. will reassess after HD to eal for improvement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2115-2-10**] 02:17 PM
   Vancomycin - [**2115-2-11**] 08:00 AM
   Clindamycin - [**2115-2-11**] 12:15 PM
   Acyclovir - [**2115-2-12**] 08:00 AM
   Cefipime - [**2115-2-12**] 01:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2115-2-13**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-13**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 110 (101 - 117) bpm
   BP: 121/78(90) {103/68(77) - 121/86(93)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,481 mL
                                                                     13 mL
   PO:
             TF:
   IVF:
                                                                  2,481 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    505 mL
   Urine:
                                                                  1,790 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    691 mL
                                                                   -492 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.45///24/
   Physical Examination
   GEN: Still delerious but improved significantly, Aox2 (says [**2014**] but in
   [**Hospital3 389**])
   CV: RR no murmurs
   PULM: Improved aeration, sparse crackles
   ABD: Soft NT
   Labs / Radiology
   9 K/uL
   9.0 g/dL
   138 mg/dL
   3.4 mg/dL
   24 mEq/L
   3.3 mEq/L
   64 mg/dL
   106 mEq/L
   147 mEq/L
   25.4 %
   0.2 K/uL
        [image002.jpg]
   N:41 Band:14 L:19 M:12 E:4 Bas:0 Atyps: 4 Metas: 4 Myelos: 2 Nrbc: 4
   Vanco: 19.9
                             [**2115-2-9**]  07:32 PM
                             [**2115-2-10**]  02:50 AM
                             [**2115-2-10**]  11:24 AM
                             [**2115-2-11**]  06:00 AM
                             [**2115-2-11**]  07:31 AM
                             [**2115-2-11**]  11:29 AM
                             [**2115-2-11**]  03:12 PM
                             [**2115-2-12**]  04:00 AM
                             [**2115-2-12**]  03:19 PM
                             [**2115-2-13**]  05:59 AM
   WBC
   0.2
   0.1
   0.1
   0.2
   Hct
   24.6
   21.7
   22.4
   24.0
   25.4
   Plt
   37
   20
   23
   22
   9
   Cr
   3.7
   3.9
   3.9
   3.7
   3.4
   3.4
   TropT
   0.08
   TCO2
   20
   23
   23
   Glucose
   143
   164
   252
   [**Telephone/Fax (3) 11693**]
   Imaging: LENIs:
   No deep venous thrombosis in either lower extremity.
   CXR:
   As compared to the previous radiograph, the signs suggesting
   centralized pulmonary edema have minimally increased. The size of the
   cardiac silhouette is stable. There is no evidence of pleural
   effusions.
   CT Chest:
   1. Simple cholelithiasis without acute cholecystitis.
   2. Unchanged bilateral breast silicone granulomata.
   3. Small bilateral pleural effusions.
   4. Nonspecific patchy tree-in-[**Male First Name (un) 2717**] appearance in the anterior portion of
   the upper lobe of the lungs, unchanged from ten days ago, could
   represent inflammatory or early infection.
   5. Multiple osteolytic lesions along the spine, left fifth rib, right
   scapular and pelvic and acetabulum, compatible with history of multiple
   myeloma.
   Echo:
   Suboptimal image quality. Left ventricular systolic function is
   difficult to assess given fast heart rate and poor acoustic windows but
   appears at least mildly depressed (LVEF~40%). Very small posterior
   pericardial effusion. Resting tachycardia.
   MRI head:
   1. Limited evaluation without administration of intravenous gadolinium.
   If the EGFR is greater than 60, a contrast enhanced MRI may be
   obtained.
   2. Stable microangiopathic ischemic white matter disease.
   3. Heterogeneous low signal intensity within the bone marrow with
   progression of infiltration in the C2 vertebral body, compatible with
   the patient's history of multiple myeloma. Recommend bone scan for
   further evaluation
   Other labs: PT / PTT / INR:17.5/29.8/1.6, CK / CKMB /
   Troponin-T:62/4/0.08, Alk Phos / T Bili:/0.8, Differential-Neuts:64.0
   %, Band:0.0 %, Lymph:16.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:2.2
   mmol/L, LDH:537 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: [**2115-2-8**] 03:06PM    PND
   Source: LP; 2
   [**2114-5-16**] 09:00AM    NO OLIGOCL1
   TUBE #2
   [**2114-4-27**] 01:04PM    NO OLIGOCL2
   Source: LP; TUBE # 2
   NO OLIGOCLONAL BANDING SEEN
   ONE SINGLE ABNORMAL BAND IN GAMMA REGION
   IDENTIFIED PREVIOUSLY, BY IFE, AS MONOCLONAL
   IGG KAPPA
   THIS BAND ALSO PRESENTS IN THE PAIRED SERUM SAMPLE
   REPORTED BY SHU-LING FAN, PHD;FINAL INTERPRETATION BY [**First Name11 (Name Pattern1) 218**] [**Last Name (NamePattern4) 11694**],
   MD
   NO OLIGOCLONAL BANDING SEEN
   A SINGLE ABNORMAL BAND IN GAMMA REGION
   CORRESPONDING EXACTLY TO BAND IN THIS PATIENT'S SERUM
   SEPARATELY IDENTIFIED BY IFE AS MONOCLONAL IGG KAPPA
   INTERPRETED BY [**First Name11 (Name Pattern1) 218**] [**Last Name (NamePattern4) 11694**], MD
   Microbiology: [**2115-2-8**] 3:06 pm CSF;SPINAL FLUID      Source: LP 3.
   GRAM STAIN (Final [**2115-2-8**]):
   NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
   NO MICROORGANISMS SEEN.
   FLUID CULTURE (Final [**2115-2-11**]):    NO GROWTH.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   VIRAL CULTURE (Preliminary):    No Virus isolated so far.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 NEUTROPENIA
 HYPOXEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   55F with multiple myeloma, undergoing active treatment, currently
   neutropenic, now with persistent fevers of unknown source and new
   respiratory distress.
   # Hypoxia/dyspnea: Secondary to flash pulmonary edema in the setting of
   extensive hydration and possible systolic heart failure (EF estimated
   ~40% on most recent echo though this was a suboptimal study).  She has
   improved with diuresis, though O2 requirement/tachypnea worsens with
   agitation.
   -- Plasmapharesis/HD (see below)
   -- Continue cefepime, vanc for nosocomial coverage, and
   voriconazole/acyclovir
   # Altered mental status: Improved today . CSF w/ monoclonal IgG in the
   past, most current CSF pep pending.  CSF cx has been negative.  MRI
   head w/ low signal intensity w/in bone marrow and progression of
   infiltration.  Also in the setting of RF, uremia remains a possibility.
   -- Pheresis today
   -- HD today
   -- Cont zyprexa for agitation
   # Tachycardia:  Likely related to hypoxia, diuresis, malignancy,
   agitation.  Had V/Q that was low prob on [**2-8**], and LENIs negative.
   -- Optimize environment/reduce stimuli
   -- Try to match in
s and out
   -- Cont metoprolol iv q6
   # Pancytopenia: Plts 9 today. Hemolysis labs negative.
   -- Transfuse 1 unit platelets today
   -- Transfuse for hct < 24, plt <10, and if signs of bleed
   -- Cont neupogen
   # Hypernatremia: Continue to monitor, can resume free water if trends
   up again.
   # Acid/base: mixed disorder. Respiratory alkalosis and metabolic
   acidosis [**1-22**] RTA and lactate.  Monitor blood gas as needed.
   # Febrile neutropenia: Abx restarted on [**2-7**] for recurrent temps.
   Workup extensive and neg to date including cultures, pan scans. Has not
   been febrile in the ICU.
   -- Continue acyclovir, cefepime, voriconazole, vancomycin
   #  Multiple myeloma:
   -- continue treatment per oncologist.
   -- pheresis today.
   -- If needing dialysis, may no longer need pheresis as the point of
   pheresis was to save the kidneys
   -- Will d/w hem/onc whether will be receiving treatment for MM given
   that pheresis alone is not sustainable tx
   # Renal failure: much worse since admission, type 1 RTA likely due to
   MM also probably worsened by diuresis.
   -- appreciate renal recs
   -- HD today
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2115-2-9**] 09:12 AM
   20 Gauge - [**2115-2-11**] 11:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: Called out to floor, awaiting bed
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient with the medical resident and was
   present for key portions of the services provided.  The assessment and
   plan was discussed and is detailed above.  I would emphasize and add
   the following.  Perhaps slightly more awake this morning albeit only
   oriented to place.  She received pheresis this morning.
   Hemodynamically stable.
   Lungs with crackles at bases abdomen soft, nontender
   CXR with hilar fullness
   No significant change in mental status on pheresis. Plan for
   hemodialysis this afternoon. Will request volume removal.
   Patient stable for transfer to oncology floor
   Time spent 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2115-2-13**] 13:56 ------